US08648066B2
A solution of 1,1-dimethylethyl 7-[2-(acetylamino)-1,3-thiazole-5-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.77 mmol) in a mixture of methanol (2 mL) and 4 N hydrogen chloride in dioxane (2 mL) was refluxed for 1 min. After cooling to room temperature the reaction mixture was concentrated, and azeotroped with methanol (3×) to give N-[5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide hydrochloride (221 mg, 88% yield) as a colorless solid. MS (EI) for C14H15N3O2S: 290 (MH+).

reactant | 1,1-dimethylethyl 7-[2-(acetylamino)-1,3-thiazole-5-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.77 mmol, 300 mg | C(C)(=O)NC=1SC(=CN1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C19H23N3O4S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-[5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide hydrochloride | 221 mg, 88% yield | Cl.O1CCNCC2=C1C=CC(=C2)C2=CN=C(S2)NC(C)=O | InChI=1S/C14H15N3O2S.ClH/c1-9(18)17-14-16-8-13(20-14)10-2-3-12-11(6-10)7-15-4-5-19-12;/h2-3,6,8,15H,4-5,7H2,1H3,(H,16,17,18);1H
